US07368578B2
A mixture of [3-(methoxymethoxy)-1-(2-methylphenyl)-1H-pyrazol-4-yl]methanol (2.39 g), activated manganese dioxide (5.0 g) and toluene (30 mL) was stirred at room temperature for 8 hrs. Activated manganese dioxide (5.0 g) was added and the mixture was further stirred for 12 hrs. Manganese dioxide was removed by filtration, and the filtrate was concentrated. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:9-1:2, v/v) to give 3-(methoxymethoxy)-1-(2-methylphenyl)-1H-pyrazole-4-carbaldehyde as an orange oil (1.65 g, yield 81%).

reactant | [3-(methoxymethoxy)-1-(2-methylphenyl)-1H-pyrazol-4-yl]methanol | 2.39 g | COCOC1=NN(C=C1CO)C1=C(C=CC=C1)C | C13H16N2O3
catalyst | manganese dioxide | 5.0 g | [O-2].[O-2].[Mn+4]
catalyst | manganese dioxide | 5.0 g | [O-2].[O-2].[Mn+4]
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(methoxymethoxy)-1-(2-methylphenyl)-1H-pyrazole-4-carbaldehyde | 1.65 g, yield 81% | COCOC1=NN(C=C1C=O)C1=C(C=CC=C1)C | C13H14N2O3
